US07951824B2
Step 1: 6-Methyl-4-nitro-pyridine-2-carbonitrile
To 10.2 ml (13.5 g, 104 mmol, 1.1 equiv.) of dimethylsulfate were added 15.0 g (94.4 mmol) of 2-Methyl-4-nitropyridine-N-oxide at 60° C. The reaction mixture was then stirred for 90 min at 70° C., and allowed to cool to room temperature. The solidified residue was triturated with 30 ml of ether. The product was filtered, washed with 20 ml of ether, and dried. The product was then dissolved in 100 ml of water and added dropwise over a period of 30 min. to a at −8° C. cooled solution of 24.6 g (377 mmol, 4.0 equiv.) of potassium cyanide in 100 ml of water. The reaction mixture was stirred for a further 15 min. at −8° C. The product was filtered off, washed twice with 15 ml of water and dried in vaccuo to yield the title compound (11.1 g, 72%) as a light brown solid.

reactant | dimethylsulfate | 104 mmol, 10.2 ml, 13.5 g, 1.1 equiv. | COS(=O)(=O)OC | C2H6O4S
reactant | 2-Methyl-4-nitropyridine-N-oxide | 94.4 mmol, 15.0 g | CC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O3
reactant | potassium cyanide | 377 mmol, 24.6 g, 4.0 equiv. | [C-]#N.[K+]
solvent | water | 100 ml | O | H2O
product | 6-Methyl-4-nitro-pyridine-2-carbonitrile | 11.1 g, 72% | CC1=CC(=CC(=N1)C#N)[N+](=O)[O-] | C7H5N3O2
